US05665718
A suspension of 1.30 g (3.33 mmol) of (S)-8-chloro-1-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one in 10 ml of N,N-dimethylformamide was treated with 1.7 g (0.017 mol) of dipropylamine. After stirring at room temperature for 20 hrs. and at 80° C. for 4 hrs. the solution obtained was completely freed from the solvents. The residue was chromatographed over silica gel with methylene chloride/methanol 39:1 as the eluent. The product was recrystallized from ether. There were obtained 1.27 g (85%) of (S)-8-chloro-1-(5-dipropylaminomethyl-1,3,4-oxadiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1- c][1,4]benzodiazepin-9-one as white crystals; m.p. 158°-160° and [a]D20 =48.8° (CH2Cl2, c=1%).

reactant | (S)-8-chloro-1-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-9-one | 3.33 mmol, 1.30 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3OC(=NN3)CCl)CCC1)=O | C17H13Cl2N5O2
reactant | dipropylamine | 0.017 mol, 1.7 g | C(CC)NCCC | C6H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-8-chloro-1-(5-dipropylaminomethyl-1,3,4-oxadiazol-2-yl)-11,12,13,13a-tetrahydro-9H-imidazo[1,5-a]pyrrolo[2,1- c][1,4]benzodiazepin-9-one | 1.27 g, 85% | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=3OC(=NN3)CN(CCC)CCC)CCC1)=O | C23H27ClN6O2
